US06458780B1
b) 7-Methanesulfonylaminoacetyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
7-Methanesulfonylaminoacetylimidazo[5,1-b]thiazole (46.2 mg) was dissolved in 2 ml of THF and 0.4 ml of HMPA. Tri-n-butylstannyl chloride (0.076 ml) and 0.713 ml of a 1.0 N lithiumbis(trimethylsilyl)amide/THF solution were added dropwise in that order to the solution in an argon atmosphere at −70° C. The mixture was stirred at the same temperature for 1.5 hr. A 1.59 Nn-butyllithium/n-hexane solution (0.146 ml) was added dropwise thereto. The mixture was stirred at the same temperature for one hr. A 1.59 N n-butyllithium/n-hexane solution (0.146 ml) and 0.076 ml of tri-n-butylstannyl chloride were added dropwise thereto. The mixture was stirred at the same temperature for 45 min. An ammonium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed twice with brine, dried over anhydrous magnesium sulfate, and filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to give 37.5 mg of the title compound.

reactant | 7-Methanesulfonylaminoacetylimidazo[5,1-b]thiazole | 46.2 mg | CS(=O)(=O)NCC(=O)C=1N=CN2C1SC=C2 | C8H9N3O3S2
reactant | Tri-n-butylstannyl chloride | 0.076 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | n-butyllithium n-hexane | 1.59 N, 0.146 ml | C(CCC)[Li].CCCCCC
reactant | tri-n-butylstannyl chloride | 0.076 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | HMPA | 0.4 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 7-Methanesulfonylaminoacetyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 37.5 mg | CS(=O)(=O)NCC(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C8H8N3O3S2.3C4H9.Sn/c1-16(13,14)10-4-6(12)7-8-11(5-9-7)2-3-15-8;3*1-3-4-2;/h2,5,10H,4H2,1H3;3*1,3-4H2,2H3;
